US05196534
5,6-Dihydro-4-(2-methyl-2-phenylhydrazino)-2(1H)-pyridinone
A suspension of 3-piperidinecarboxylic acid, 2,4-dioxo-, methyl ester, ion (1-), sodium (10.0 g) in water (24 ml) and 2M aqueous hydrochloric acid (26 ml) was heated at reflux for 30 min. The resulting mixture was cooled to ca. 20°, diluted with industrial methylated spirit (25 ml) and treated with 1-methyl-1-phenylhydrazine sulphate (2:1) (8.8 g) and 5M aqueous sodium hydroxide (12 ml). The resulting suspension was diluted with water (25 ml), cooled to ca. 0° and filtered to give the title compound (9.1 g), m.p. 185°.

reactant | 3-piperidinecarboxylic acid | N1CC(CCC1)C(=O)O | C6H11NO2
reactant | sodium | 10.0 g | [Na] | Na
reactant | 1-methyl-1-phenylhydrazine sulphate | 8.8 g | S(=O)(=O)(O)O.CN(N)C1=CC=CC=C1
reactant | sodium hydroxide | 5M, 12 ml | [OH-].[Na+]
solvent | water | 24 ml | O | H2O
solvent | hydrochloric acid | 2M, 26 ml | Cl | ClH
solvent | water | 25 ml | O | H2O
product | 5,6-Dihydro-4-(2-methyl-2-phenylhydrazino)-2(1H)-pyridinone | 9.1 g | CN(NC1=CC(NCC1)=O)C1=CC=CC=C1 | C12H15N3O
